US05672588
N-[(2-methylphenyl)methyl]adenosine
The title compound was prepared by reacting (2-methylphenyl)methylamine (1.51 g, 12.5 mmol) with 6-chloropurine riboside (2.87 g, 10.0 mmol) in dioxan (100 ml) in the presence of diisopropylethylamine (1.94 g, 15.0 mmol). The reaction mixture was heated at 60° C. for 6 h, cooled, filtered and evaporated. The residue was purified by flash chromatography, eluting initially with dichloromethane, and later increasing polarity to dichloromethanethanol (9:1), to provide the product (2.6 g, 70%) as a solid which was recrystallised from methanol to give N-[(2-methylphenyl)methyl]adenosine as white crystals (1.75 g, 47%), mp 161.5°-163.5° C., 1H NMR (DMSO-d6)δ 2.35 (3H, s, --CH3), 3.53-3.60 (1H, m, H-5'a), 3.65-3.72 (1H, m, H-5'b), 3.98 (1H, q, H-4'), 4.16 (1H, m, H-3'), 4.64 (1H, q, H-2'), 5.41 (1H, t, 5'-0H), 5.21, 5.48 (2H, 2d, 2'- and 3'-OH), 5.92 (1H, d, H-1'), 7.06-7.24 (4H, m, Ar--H), 8.20 and 8.40 (3H, s and br s, H-2, H-8 and N--H).

reactant | (2-methylphenyl)methylamine | 12.5 mmol, 1.51 g | CC1=C(C=CC=C1)CN | C8H11N
reactant | 6-chloropurine riboside | 10.0 mmol, 2.87 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | diisopropylethylamine | 15.0 mmol, 1.94 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxan | 100 ml | O1CCOCC1 | C4H8O2
product | N-[(2-methylphenyl)methyl]adenosine | CC1=C(C=CC=C1)CNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | C18H21N5O4
